US07084178B2
A mixture of (+)-(1S,2R)-2-benzamidocyclohexanecarboxylic acid (4.0 g, 16.2 mmol, TCI chemical company) and 6 M hydrochloric acid (200 mL) was heated at reflux for 48 h. The reaction mixture was cooled to room temperature and extracted with diethyl ether (2×200 mL). The aqueous portion was concentrated in vacuo to afford (1S,2R)-2-aminocyclohexanecarboxylic acid as a white solid. The crude product was used in the next step without purification or characterization.

reactant | (+)-(1S,2R)-2-benzamidocyclohexanecarboxylic acid | 16.2 mmol, 4.0 g | C(C1=CC=CC=C1)(=O)N[C@H]1[C@H](CCCC1)C(=O)O | C14H17NO3
solvent | hydrochloric acid | 6 M, 200 mL | Cl | ClH
product | (1S,2R)-2-aminocyclohexanecarboxylic acid | N[C@H]1[C@H](CCCC1)C(=O)O | C7H13NO2
